Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___
 
Chief Complaint:
Scheduled chemotherapy
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Note Date: ___  Time: 1829
Note Type: Progress note
Note Title: Oncology Hospitalist Admission Note
Signed by ___, MD on ___ at 8:16 pm  Affiliation: 
___
 
=
================================================================
              ONCOLOGY HOSPITALIST ADMISSION NOTE
                    ___
=
================================================================

PCP: ___  
PRIMARY ONCOLOGIST: ___
PRIMARY DIAGNOSIS: DLBCL   
TREATMENT REGIMEN: R-EPOCH (s/p 3 cycles)

CHIEF COMPLAINT: Scheduled Chemotherapy

HISTORY OF PRESSENT ILLNESS:
___ PMH of HIV, DLBCL (c/b large pleural mass, on R-EPOCH), who
presented for scheduled chemotherapy (Cycle 4)

As per review of notes, patient tolerated cycle 3 well with
exception of fatigue. Afterward, he had PET on ___ which showed
focus 1.6 x 1.2cm of FDG uptake in posterior fossa, possibly
artifact as all other lesions had improved but rec'd brain MRI
for further evaluation.

The patient received his rituximab in clinic today prior to
presenting to 11R. 

The patient feels well and is without complaints. He has noticed
floaters in his left eye for the past ___ weeks which are 
stable.

No headache or vision changes. No chest pain or dyspnea. No
palpitations. No n/v/d. No abd pain. No diarrhea, constipation,
melena or hematochezia. No dysuria. 

ROS: 10 point review of systems discussed with patient and
negative unless noted above

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
As per last clinic note by Dr ___: "was admitted on ___ for left sided chest pain. He reports he had been having 
left sided chest pain since the end of ___. He described 
the pain as achy and thought he had a pulled muscle. He has 
being followed by his pcp who did ___ chest x ray which was 
negative. Pain worsened, he went to the ___ ER ___ CTA 
chest and abdomen revealed a 6 cm soft tissue mass surrounding 
the left fourth rib with an associated pathologic fracture, 1.2 
cm soft tissue nodule abutting the left psoas, an expansile 
mixed lytic and sclerotic T10 lesion, a 2.5 cm indeterminate 
right adrenal nodule, retroperitoneal LAD. Possible bone lesions 
in L 7th rib, R iliac and R acetabulum. He then underwent an ___ 
guided biopsy of this soft tissue mass on ___, which showed 
diffuse large B cell lymphoma, CD20+, CD10 neg, Ki67 80-90%, EBV 
RNA neg and BCL 6 rearrangement. He denied fevers, chills, night 
sweats or weight loss. LDH was normal at presentation. He was 
seen locally by Dr. ___ at ___. Patient was 
admitted on ___ to initiate da-EPOCH cycle 1.

Treatment history: 
___: IT MTX
___: C1D1 da-EPOCH, dose level 1
___: C1D1 Rituxan
___: C2D1 da-R-EPOCH, dose level 1
___: C3D1 da-R-EPOCH, dose level 2"
 
PAST MEDICAL HISTORY:
HIV-dx in ___
HTN
HLD
Depression
h/o shingles
Seasonal allergies
Tonsillectomy at age ___  
 
Social History:
___
Family History:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) ___ - Stomach CA
PGF (d) ___ - MI
2 Brothers with hemochromatosis
another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood
disorders.
 
Physical Exam:
VS 98.1 PO 140 / 88 76 19 98 RA
GENERAL:  NAD, sitting upright in bed, appears comfortable
EYES: PERRLA, Aniceric, EOMI
HEENT: Moist mucous membranes. OP Clear
NECK:  supple 
RESP:  CTAB, increased WOB. No wheezing, rhonchi or crackles,
normal respiratory rate 
___:  RRR no MRG, normal distal perfusion, no edema
GI:  Soft, NT, ND, normoactive BS
EXT:  Warm, no edema
SKIN: Dry, no lesions 
NEURO:  CN II to XII intact. finger to nose intact b/l, no
dysmetria, no problems with rapid alternating movements, 
strength
5 out of 5 bilaterally in upper and lower extremities, heel to
shin normal, speech fluent
ACCESS:  R POC c/d/I
 
Pertinent Results:
___ 12:25AM BLOOD WBC-10.5* RBC-2.51* Hgb-8.7* Hct-25.7* 
MCV-102* MCH-34.7* MCHC-33.9 RDW-17.5* RDWSD-65.1* Plt ___
___ 12:25AM BLOOD Neuts-95.4* Lymphs-2.0* Monos-0.9* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-9.99* AbsLymp-0.21* 
AbsMono-0.09* AbsEos-0.00* AbsBaso-0.01
___ 12:25AM BLOOD Glucose-113* UreaN-20 Creat-0.9 Na-143 
K-4.2 Cl-106 HCO3-24 AnGap-13
___ 12:25AM BLOOD ALT-15 AST-17
___ 12:25AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.2
___ 05:33AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1 UricAcd-4.7
___ 11:15AM BLOOD Calcium-9.1 UricAcd-7.2*

IMAGING:
___ Imaging FDG TUMOR IMAGING (PET- 
IMPRESSION: 1. Interval resolution of multiple FDG avid lesions
including multiple left pleural lesions, right adrenal lesion,
left para psoas peritoneal implant, and left acetabular. 2. Mild
residual increased FDG uptake in T10 vertebral body, improved
compared to ___ 3. Persistent but improved FDG uptake in
left fourth rib is likely secondary to known fracture as the 
soft
tissue component has resolved compared to ___. 4. 1.6 x
1.2 cm focus of increased FDG uptake in the left posterior fossa
corresponding to a questionable hypodensity is likely 
artifactual
and given overall improvement of disease, although incompletely
characterized. Brain MR can provide further assessment if
clinically indicated.

Brain MRI ___: IMPRESSION: No acute intracranial abnormality. 
No
evidence of intracranial mass, including the posterior fossa at
the site of the FDG avid abnormality on the recent study of ___.
 
Brief Hospital Course:
___ PMH of HIV, DLBCL (c/b large pleural mass) presenting for C4
DA-R-EPOCH. 

# DLBCL (c/b large pleural mass, on R-EPOCH)
Most recent PET from ___ revealed resolution or improvement of
FDG avid lesions with exception of brain lesion (possibly
artifact), being investigated as below. Patient presented on 
this
admission for C4 R-EPOCH. He received rituxan in clinic
prior to admission. He tolerated EPOCH well inpatient. No 
changes
were made to his medications. Will take his remaining prednisone
dose in the morning and neupogen tomorrow. 
[] Pharmacy rec'd TTE prior to next cycle, outpatient NP aware

# FSG avid Brain lesion on PET:
PET on ___ showed focus 1.6 x 1.2cm of FDG uptake in posterior
fossa, possibly artifact given that all other lesions had
improved. No focal neurological deficits on exam, though patient
reports floaters in left eye x2-3 weeks. MRI brain did not 
reveal
any intracranial lesions. 

# HIV
CD4 was checked during last cycle and was low which was thought
to be ___ chemotherapy and ID recd against further ppx agents
- No need to trend Cd4 during chemo as expected to decline 
- Continue Bactrim ppx
- Continue Descovy and Tivicay

# Anemia
Likely multifactorial from chemo + malignancy
- trend daily
 
FEN: Regular diet
DVT PROPH: enoxaparin inpatient
ACCESS: PORT
CODE STATUS: FC (presumed)
DISPO: Home w/o services, 30 min spent coordinating care for 
discharge
______________
___, D.O.
Heme/Onc Hospitalist
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Cetirizine 10 mg PO DAILY:PRN allergies 
4. Dolutegravir 50 mg PO DAILY 
5. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
6. LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia 
7. Ondansetron ODT 8 mg PO Q8H:PRN nausea 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Filgrastim-sndz 480 mcg SC Q24H  
2.  PredniSONE 100 mg PO ONCE take 8am ___ Duration: 1 Dose  
3.  Acyclovir 400 mg PO Q12H  
4.  Allopurinol ___ mg PO DAILY  
5.  Cetirizine 10 mg PO DAILY:PRN allergies  
6.  Dolutegravir 50 mg PO DAILY  
7.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
8.  LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia  
9.  Multivitamins 1 TAB PO DAILY  
10.  Ondansetron ODT 8 mg PO Q8H:PRN nausea  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Diffuse large b-cell lymphoma
# Encounter for chemotherapy
# HIV
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking of you at ___ 
___. You were admitted for you scheduled chemotherapy, which 
you tolerated well. Please take one dose of prednisone 100 mg 
the morning of ___, and be sure to start taking your neupogen 
(Zarxio) shots on the morning of ___. You will also need to 
have your blood counts checked twice weekly (starting tomorrow, 
on ___ and follow up with Dr. ___ as scheduled. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___